US05041462
Preparation of 2-(acetoxyacetylamino)-6-aminobenzamide:
To a mixture of 2-(acetoxyacetylamino)-6-nitrobenzonitrile (5.7 g) and ethanol (50 ml) are added cyclohexene (10.5 ml) and 10% palladium-carbon (4.7 g). The mixture is refluxed for 20 minutes, and the reaction mixture is cooled to room temperature, and the solid materials are filtered off. The filtrate is distilled under reduced pressure. The residual crude crystals are recrystallized from ethanol to give the title compound (1.2 g) having the following physical properties.

reactant | 2-(acetoxyacetylamino)-6-nitrobenzonitrile | 5.7 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C11H9N3O5
reactant | cyclohexene | 10.5 ml | C1=CCCCC1 | C6H10
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 4.7 g | [C].[Pd]
product | 2-(acetoxyacetylamino)-6-aminobenzamide | 1.2 g | C(C)(=O)OCC(=O)NC1=C(C(=O)N)C(=CC=C1)N | C11H13N3O4
